US07199125B2
(6R,7aS)-2-(3,5-dichlorophenyl)-1,3-dioxohexahydro-1H-pyrrolo[1,2-c]imidazol-6-yl benzoate
To a solution of (6R,7aS)-2-(3,5-dichlorophenyl)-6-hydroxytetrahydro-1H-pyrrolo[1,2-c]imidazole-1,3(2H)-dione (1.2 g) (4 mmol) (Preparation 6), dimethylaminopyridine (50 mg) (0.1 eq.) and benzoic acid (0.49 g) (1 eq.) in 10 mL of dry DCM at 0° C. was added DCC (0.9 g) (1 eq.) in a minimal volume of DCM. The reaction mixture was stirred to RT overnight. After filtering off the insoluble material, the reaction mixture is washed with a dilute NaHCO3 aqueous solution, with dilute HCl solution, with water, dried over MgSO4, and evaporated under reduced pressure to afford to afford the titled compound as a viscous oil (1.54 g). 1H NMR (CDCl3): 8.05 (2H,d), 7.65 (1H,m), 7.5 (1H,d), 7.43 (2H,d), 7.38 (1H,m), 5.81 (1H,t), 4.62 (1H,dd), 4.23 (1H,dd), 3.56 (1H,d), 2.68 (1H,dd), 2.05–2.20 (1H,m).

reactant | (6R,7aS)-2-(3,5-dichlorophenyl)-6-hydroxytetrahydro-1H-pyrrolo[1,2-c]imidazole-1,3(2H)-dione | 4 mmol, 1.2 g | ClC=1C=C(C=C(C1)Cl)N1C(N2[C@H](C1=O)C[C@H](C2)O)=O | C12H10Cl2N2O3
reactant | dimethylaminopyridine | 50 mg, 0.1 eq. | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | benzoic acid | 0.49 g, 1 eq. | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | DCC | 0.9 g, 1 eq. | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (6R,7aS)-2-(3,5-dichlorophenyl)-1,3-dioxohexahydro-1H-pyrrolo[1,2-c]imidazol-6-yl benzoate | 1.54 g | C(C1=CC=CC=C1)(=O)O[C@@H]1C[C@@H]2N(C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C1 | C19H14Cl2N2O4
